US04737519
Dry methylene chloride (30 ml) and triethylamine (0.33 ml, 2.34 mmole) are added to a mixture of 2,3-diethyl-4-methoxynaphthol (180 mg, 0.78 mmole), dimethylamino propionic acid hydrochloride (2 eq, 283 mg, 1.56 mmole), dicyclohexylcarbodiimide (2 eq, 322 mg, 1.56 mmole) and 4-dimethylaminpyridine (1 eq, 95 mg, 0.78 mmole) at room temperature under argon, and the resulting suspension is stirred at room temperature under argon for two days. The white precipitate is removed by filtration, and the filtrate is concentrated. Thick layer chromatography (silica gel, 2000 micron) developed by a 9:1 mixture of ether and n-hexane isolates 144 mg (51.8% ) of 3-(N,N-diethylamino) propionic acid, 2,3-diethyl-4-methoxynaphth-1-yl ester as a colorless oil.

reactant | triethylamine | 2.34 mmole, 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-diethyl-4-methoxynaphthol | 0.78 mmole, 180 mg | C(C)C1=C(C2=CC=CC=C2C(=C1CC)OC)O | C15H18O2
reactant | dimethylamino propionic acid hydrochloride | 1.56 mmole, 283 mg, 2 eq | Cl.CN(C)C(C(=O)O)C
reactant | dicyclohexylcarbodiimide | 1.56 mmole, 322 mg, 2 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-(N,N-diethylamino) propionic acid, 2,3-diethyl-4-methoxynaphth-1-yl ester | 144 mg, 51.8% | C(C)N(CC)CCC(=O)OC1=C(C(=C(C2=CC=CC=C12)OC)CC)CC | C22H31NO3
